US06080743
a) N-(7-Bromo-2,3-dimethoxyquinoxalin-5-ylmethyl)-oxalamic acid
276 mg of N-(7-bromo-2,3-dimethoxy-quinoxalin-5-ylmethyl)-oxalamic acid ethyl ester and 150 mg of potassium carbonate are suspended in 2 ml of water and 5 ml of methanol. The mixture is stirred for 20 hours and acidified with 1 N HCl, and the solid is filtered off and washed with methanol and diethyl ether. M.p.>300° C.

reactant | N-(7-bromo-2,3-dimethoxy-quinoxalin-5-ylmethyl)-oxalamic acid ethyl ester | 276 mg | C(C)OC(C(=O)NCC1=C2N=C(C(=NC2=CC(=C1)Br)OC)OC)=O | C15H16BrN3O5
reactant | potassium carbonate | 150 mg | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | 1 N | Cl | ClH
solvent | water | 2 ml | O | H2O
solvent | methanol | 5 ml | CO | CH4O
product | N-(7-Bromo-2,3-dimethoxyquinoxalin-5-ylmethyl)-oxalamic acid | BrC1=CC(=C2N=C(C(=NC2=C1)OC)OC)CNC(C(=O)O)=O | C13H12BrN3O5
